US06222034B1
3,4,5,6,7,8-Hexahydro-7-acetyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one
5.8 g (23.4 mmol) of 2-ethoxymethyleneamino-3-carboethoxy-6-acetyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine in 50 ml of ethanol were mixed with 5.5 g (23.4 mmol) of 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine and refluxed for 2 h. The mixture was then concentrated in a rotary evaporator, and the residue was taken up in 30 ml of ethyl acetate, heated to boiling and left to cool with stirring. The solid which crystallized out was filtered off with suction after cooling in an ice bath and was washed with ethyl acetate. 8.7 g (80%) of product with melting point 170-172° C. were isolated.

reactant | 2-ethoxymethyleneamino-3-carboethoxy-6-acetyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 23.4 mmol, 5.8 g | C(C)OC=NC1=C(C2=C(CN(CC2)C(C)=O)S1)C(=O)OCC | C15H20N2O4S
reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine | 23.4 mmol, 5.5 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,4,5,6,7,8-Hexahydro-7-acetyl-3-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]pyrido[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | 8.7 g, 80% | C(C)(=O)N1CC2=C(C3=C(N=CN(C3=O)CCN3CCN(CC3)C3=C(C=CC=C3)OC)S2)CC1 | C24H29N5O3S
